US04284631
A mixture of 2-(2-formamidothiazol-4-yl)glyoxylic acid (1.10 g.) and 2-methylthiazol-4-ylmethoxyamine (0.99 g.) in methanol (17 ml.) was stirred at room temperature for 3 hours. The precipitates were collected by filtration and washed with methanol to give 2-(2-formamidothiazol-4-yl)-2-(2-methylthiazol-4-ylmethoxyimino)-acetic acid (syn isomer, 1.17 g.).

reactant | 2-(2-formamidothiazol-4-yl)glyoxylic acid | 1.10 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=O | C6H4N2O4S
reactant | 2-methylthiazol-4-ylmethoxyamine | 0.99 g | CC=1SC=C(N1)CON | C5H8N2OS
solvent | methanol | 17 ml | CO | CH4O
product | 2-(2-formamidothiazol-4-yl)-2-(2-methylthiazol-4-ylmethoxyimino)-acetic acid | 1.17 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC=1N=C(SC1)C | C11H10N4O4S2
